US07977364B2
3-(4-hydroxybenzyl)-1,2-benzisoxazol-6-ol
6-(tetrahydro-2H-pyran-2-yloxy)-3-[4-(tetrahydro-2H-pyran-2-yloxy)benzyl]-1,2-benzisoxazole (3.85 mmol) and paratoluenesulfonic acid (APTS, catalytic amount) were dissolved in methanol (20 ml). After reaction at 60-70° C. for 3 h, the reaction mixture was cooled to room temperature and poured into saturated NaHCO3 and extracted with EtOAc. After washing (H2O) and drying (MgSO4), the extract was concentrated. The crude product was purified by flash chromatography (toluene/1,4-dioxane 8/2) and crystallised to give an off-white crystal (0.58 g, 31%). mp 178° C.

reactant | 6-(tetrahydro-2H-pyran-2-yloxy)-3-[4-(tetrahydro-2H-pyran-2-yloxy)benzyl]-1,2-benzisoxazole | 3.85 mmol | O1C(CCCC1)OC1=CC2=C(C(=NO2)CC2=CC=C(C=C2)OC2OCCCC2)C=C1 | C24H27NO5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(4-hydroxybenzyl)-1,2-benzisoxazol-6-ol | 0.58 g, 31% | OC1=CC=C(CC2=NOC3=C2C=CC(=C3)O)C=C1 | C14H11NO3
